US04866086
Bromine (0.52 ml.) in chloroform (50 ml.) was added to solution of 2-propionyl 5-trifluoromethylpyridine (2.03 g.) in chloroform (20 ml.) over 1 hour under photoflood illumination. After addition was complete the reaction was stirred for 16 hours at room temperature. The reaction was then poured into water, and the organic phase was separated, washed with water, dried over magnesium sulphate and concentrated to dryness to give 2-(2-bromopropionyl)-5-trifluoromethylpyridine as an oil which was used without further purification.

reactant | Bromine | 0.52 ml | BrBr | Br2
reactant | 2-propionyl 5-trifluoromethylpyridine | 2.03 g | C(CC)(=O)C1=NC=C(C=C1)C(F)(F)F | C9H8F3NO
reactant | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-bromopropionyl)-5-trifluoromethylpyridine | BrC(C(=O)C1=NC=C(C=C1)C(F)(F)F)C | C9H7BrF3NO
